US05308837
Step A: 2-Amino-5-Hydroxy-3-Pentynoic Acid
A mixture of glyoxylic acid monohydrate (23 g, 250 mmol), propargyl alcohol (16.8 g, 300 mmol), copper (II) chloride (3.2 g, 25 mmol) and ammonium acetate (49 g, 600 mmol) in ethanol (100 ml) is heated under reflux for 6 h. Then the reaction mixture is concentrated in vacuo, diluted with water (50 ml), acidified to pH 5 with 1N HCl and washed twice with ether (100 ml). Then the aqueous solution is poured on an ion exchange resin column (DOWEX 50, H+). The column is eluted with 1M ammonium hydroxide to give the title compound 2-amino-5-hydroxy-3-pentynoic acid.

reactant | glyoxylic acid monohydrate | 250 mmol, 23 g | O.C(C=O)(=O)O
reactant | propargyl alcohol | 300 mmol, 16.8 g | C(C#C)O | C3H4O
reactant | ammonium acetate | 600 mmol, 49 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | copper (II) chloride | 25 mmol, 3.2 g | [Cu](Cl)Cl
product | 2-amino-5-hydroxy-3-pentynoic acid | NC(C(=O)O)C#CCO | C5H7NO3
